US20010021522A1
Methyl ester of DGLA is recovered preferably by extracting the above-mentioned treated solution with an organic solvent such as hexane, an ether such as ethyl ether, or an ester such as ethyl acetate. Next, the resulting extract is dried on, for example, anhydrous sodium sulfate, and the solvent is distilled off preferably under reduced pressure to obtain a mixture comprising fatty acid esters. This mixture contains, in addition to the desired fatty acid HGLA methyl ester, other fatty acid methyl esters, such as methyl parmitate, methyl stearate, methyl oleate and the like. To isolate methyl ester of DGLA from the mixture of these fatty acid methyl esters, column chromatography, low temperature crystallization, the urea-inclusion method, the liquid/liquid countercurrent chromatography method, and the like can be used alone or in combination.

reactant | methyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC | C19H38O2
reactant | methyl oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC | C19H36O2
product | DGLA | CCCCC/C=C\C/C=C\C/C=C\CCCCCCC(=O)O | C20H34O2
